US08461189B2
A solution of 1,1-dimethylethyl{6-phenyl-2-[({4-[({[(pyridin-3-ylmethyl)oxy]carbonyl}amino)methyl]phenyl}carbonyl)amino]pyridin-3-yl}carbamate (25 mg, 0.045 mmol) in ethyl acetate (5 mL) was treated with 4M HCl in dioxane (1.13 mL, 4.52 mmol) and stirred at ambient temperature for 16 hours. The reaction was evaporated in vacuo and purified by flash column chromatography (0-5% methanol(w/1% ammonia)/DCM) to give pyridin-3-ylmethyl[(4-{[(3-amino-6-phenylpyridin-2-yl)amino]carbonyl}phenyl)methyl]carbamate. 1H NMR (CD3OD, 600 MHz) δ 8.58 (br s, 1H), 8.49 (br s, 1H), 8.00 (d, J=8.21 Hz, 2H), 7.89 (d, J=7.63 Hz, 3H), 7.75 (t, J=5.87 Hz, 1H), 7.61 (d, J=8.21 Hz, 1H), 7.58 (d, J=6.75 Hz, 1H), 7.38 (m, 8H), 5.18 (s, 2H), 4.38 (d, J=5.87 Hz, 2H). MS: cal'd 454 (MH+), exp 454 (MH+). The in vitro HDAC1 IC50 of this compound is 84 nM. The IC50 of this compound in HCT-116 cells is 580 nM. Percent Cyp inhibitions at 10 μM are 46, 54 and 55%, for Cyp3A4, 2C9, and 2D6, respectively. The inflection point for MK-499 binding is >30 μM.

reactant | 1,1-dimethylethyl{6-phenyl-2-[({4-[({[(pyridin-3-ylmethyl)oxy]carbonyl}amino)methyl]phenyl}carbonyl)amino]pyridin-3-yl}carbamate | 0.045 mmol, 25 mg | CC(C)(C)N(C([O-])=O)C=1C(=NC(=CC1)C1=CC=CC=C1)NC(=O)C1=CC=C(C=C1)CNC(=O)OCC=1C=NC=CC1
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 4.52 mmol, 1.13 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | pyridin-3-ylmethyl[(4-{[(3-amino-6-phenylpyridin-2-yl)amino]carbonyl}phenyl)methyl]carbamate | N1=CC(=CC=C1)COC(NCC1=CC=C(C=C1)C(=O)NC1=NC(=CC=C1N)C1=CC=CC=C1)=O | C26H23N5O3
